US04420555
Part A--Preparation of N-Ethyl-N-(2,2,2-trifluoroethoxycarbonylmethyl)-m-toluidine
A mixture of 13.5 g (0.1 mole) N-ethyl-m-toluidine, 22.1 g (0.1 mole) trifluoroethyl bromoacetate and 7.0 g (0.051 mole) potassium carbonate in 100 ml of acetone was heated at reflux for two hours. Water (10 ml) was added and the mixture heated at reflux overnight. Solvent was removed on a rotary evaporator, ether added and the layers separated. The aqueous layer was extracted with ether. The combined ether solution was washed once with 50 ml of water and dried over sodium sulfate. Removal of ether gave 26.0 g brown oil which gave one spot by thin layer chromatography and was used as isolated (94%).

reactant | N-ethyl-m-toluidine | 0.1 mole, 13.5 g | C(C)NC1=CC(=CC=C1)C | C9H13N
reactant | trifluoroethyl bromoacetate | 0.1 mole, 22.1 g | BrCC(=O)OCC(F)(F)F | C4H4BrF3O2
reactant | potassium carbonate | 0.051 mole, 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 10 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-Ethyl-N-(2,2,2-trifluoroethoxycarbonylmethyl)-m-toluidine | 26.0 g | C(C)N(C1=CC(=CC=C1)C)CC(=O)OCC(F)(F)F | C13H16F3NO2
